US07247645B2
1) Synthesis of (3,3-diphenylpropane-1-yl)3-oxopentanoate:
3.0 g (23.1 mg) of methyl 3-oxopentanoate and 4.9 g (23.1 mg) of 3,3-diphenylpropanol were stirred in 60 ml of toluene under heating at 100° C. overnight. Toluene was distilled out under reduced pressure to obtain the title compound.

reactant | methyl 3-oxopentanoate | 3.0 g | O=C(CC(=O)OC)CC | C6H10O3
reactant | 3,3-diphenylpropanol | 4.9 g | C1(=CC=CC=C1)C(CCO)C1=CC=CC=C1 | C15H16O
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | (3,3-diphenylpropane-1-yl)3-oxopentanoate | C1(=CC=CC=C1)C(CCOC(CC(CC)=O)=O)C1=CC=CC=C1 | C20H22O3
